### PR TITLE
[Merged by Bors] - feat(SkewMonoidAlgebra): SkewMonoidAlgebra/Support

### PR DESCRIPTION
**Pull request by xgenereux**
Add lemmas regarding the support of a skew monoid algebra.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xgenereux** [comment]
As some more results on skew monoid algebras got merged, I added most of the lemmas associated to the support from the TODO.

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean [hunk 1]
```diff
@@ -0,0 +1,127 @@
...
+import Mathlib.Algebra.SkewMonoidAlgebra.Basic
+
+/-!
+#  Lemmas about the support of an element of a skew monoid algebra
+
+For `f : SkewMonoidAlgebra k G`, `f.support` is the set of all `a ∈ G` such that `f a ≠ 0`.
+
+## TODO
+
+The following lemma is currently missing since it needs:
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]: I don't understand what is needed.

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean [hunk 2]
```diff
@@ -0,0 +1,127 @@
...
+
+end AddCommMonoid
+
+section AddCommGroup
+
+variable [AddCommGroup k]
+
+theorem support_neg (p : SkewMonoidAlgebra k G) : (-p).support = p.support := by
+  rw [support, toFinsupp_neg, Finsupp.support_neg]
+  rfl
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]: Is it possible to avoid the `rfl`?

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean [hunk 3]
```diff
@@ -0,0 +1,127 @@
...
+
+## TODO
+
+The following lemma is currently missing since it needs:
+- `mem_span_support`
+-/
+
+open scoped Pointwise
+
+universe u₁ u₂ u₃
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]: Do you really need to name the universes?

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean [hunk 4]
```diff
@@ -0,0 +1,127 @@
...
+
+open Finset Finsupp
+
+variable {k : Type u₁} {G : Type u₂}
+
+section AddCommMonoid
+
+variable [AddCommMonoid k]
+
+theorem support_single_ne_zero {b : k} (a : G) (h : b ≠ 0) : (single a b).support = {a} := by
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]: Can you also put `a` and `b` in a `variable` line?

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean [hunk 5]
```diff
@@ -0,0 +1,127 @@
...
+
+theorem support_mul_single_subset [DecidableEq G] (f : SkewMonoidAlgebra k G) (r : k) (a : G) :
+    (f * single a r).support ⊆ Finset.image (· * a) f.support :=
+  (support_mul _ _).trans <| (Finset.image₂_subset_left support_single_subset).trans <| by
+    rw [Finset.image₂_singleton_right]
+
+theorem support_single_mul_eq_image [DecidableEq G] (f : SkewMonoidAlgebra k G) {r : k}
+    {x : G} (lx : IsLeftRegular x) (hrx : ∀ y, r * x • y = 0 ↔ y = 0) :
+    (single x r * f : SkewMonoidAlgebra k G).support = Finset.image (x * ·) f.support := by
+  refine subset_antisymm (support_single_mul_subset f _ _) fun y hy => ?_
```
Comment (riccardobrasca) [inline Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]:
```suggestion
  refine subset_antisymm (support_single_mul_subset f _ _) fun y hy ↦ ?_
```
also in other places.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Algebra/SkewMonoidAlgebra/Support.lean (hunk 1 above)
Comment (xgenereux) [reply Mathlib/Algebra/SkewMonoidAlgebra/Support.lean]: Fixed that sorry.

**Comment by riccardobrasca** [comment]
LGTM, feel free to merge if you're done. Thanks!

**Comment by xgenereux** [comment]
Thanks for the review!

bors r+
